US06140330
To a solution of dimethyl {2-[3-methoxy-4-(2-benzothiazolylaminocarbonylmethoxy)phenyl]-2-hydroxyethyl}phosphonate (19.0 g) in chloroform (300 ml) is added active manganese dioxide (17.7 g), and the mixture is refluxed for three hours. To the mixture is additionally added active manganese dioxide (18 g), and the mixture is refluxed for three hours. To the mixture is further added active manganese dioxide (20 g), and the mixture is refluxed for three hours. The manganese dioxide is collected by filtration, and washed with chloroform. The filtrate and the washings are combined and concentrated under reduced pressure to remove the chloroform. The residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=200:1→50:1) to give dimethyl {[3-methoxy-4-(2-benzothiazolylaminocarbonylmethoxy)benzoyl]methyl}phosphonate (7.76 g).

reactant | dimethyl {2-[3-methoxy-4-(2-benzothiazolylaminocarbonylmethoxy)phenyl]-2-hydroxyethyl}phosphonate | 19.0 g | COC=1C=C(C=CC1OCC(=O)NC=1SC2=C(N1)C=CC=C2)C(CP(OC)(OC)=O)O | C20H23N2O7PS
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 17.7 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 18 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 20 g | [O-2].[O-2].[Mn+4]
product | dimethyl {[3-methoxy-4-(2-benzothiazolylaminocarbonylmethoxy)benzoyl]methyl}phosphonate | 7.76 g | COC=1C=C(C(=O)CP(OC)(OC)=O)C=CC1OCC(=O)NC=1SC2=C(N1)C=CC=C2 | C20H21N2O7PS
